US07214802B2
3-Hydroxy-2,2-dimethyl-propionic acid methyl ester (3.00 g, 22.7 mmol) in 40 mL of THF at 0° C. was treated with 1.0 g (25 mmol) of 60% NaH in mineral oil for 20 min. Benzyl bromide (2.97 mL, 25.0 mmol) was added dropwise over 10 minutes. The mixture was stirred overnight, 30 mL of water was added, and the mixture was extracted with EtOAc (3×100 mL). The combined extracts were washed with brine, dried with MgSO4, filtered, and concentrated. The residue was dissolved in 40 mL of EtOH, 28 mL of 2M NaOH was added, and the mixture was heated to 80° C. for 12 h. The mixture was cooled, neutralized with 2M HCl, and extracted with EtOAc (3×100 mL). The combined extracts were washed with brine, dried with MgSO4, filtered, concentrated, and chromatographed (10–100% EtOAc in hexanes) to provide 2.4 g of 3-benzyloxy-2,2-dimethyl-propionic acid.

reactant | 3-Hydroxy-2,2-dimethyl-propionic acid methyl ester | 22.7 mmol, 3.00 g | COC(C(CO)(C)C)=O | C6H12O3
reactant | NaH | 25 mmol, 1.0 g | [H-].[Na+]
reactant | Benzyl bromide | 25.0 mmol, 2.97 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 30 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-benzyloxy-2,2-dimethyl-propionic acid | 2.4 g | C(C1=CC=CC=C1)OCC(C(=O)O)(C)C | C12H16O3
